US05364844
(3S, 5S)-5-[(1S)-1-(N-t-Butoxycarbonylamino)-2-cyclohexylethyl]-3-(1-hydroxycyclohexyl)dihydrofuran-2(3H)-one
1.43 ml (3.58 mmoles) of butyllithium (as a 2.5M hexane solution) was added dropwise, at -78° C. and under an atmosphere of nitrogen, to a solution of 0.50 ml (3.57 mmoles) of diisopropylamine in 10 ml of anhydrous tetrahydrofuran. The mixture was then stirred for 30 minutes, after which a solution of 500 mg (1.61 mmoles) of (5S)-5-[(1S)-1-(N-t-butoxycarbonylamino)-2-cyclohexylethyl]dihydrofuran-2(3H)-one (prepared as described in Preparation 5) in 5 ml of anhydrous tetrahydrofuran was added thereto. The mixture was then stirred for a further 1 hour, and then 0.24 ml (3.55 mmoles) of distilled cyclohexanone was added to the mixture and stirred for 2 hours. A saturated aqueous solution of ammonium chloride was added to the reaction mixture, which was then extracted with ethyl acetate. The extract was washed with a 10% w/v aqueous solution of citric acid, with water and with a saturated aqueous solution of sodium chloride, in that order. It was then dried over anhydrous magnesium sulfate, and the solvent was removed by distillation under reduced pressure. The residue was purified by medium pressure silica gel column chromatography (using a 1:1 by volume mixture of hexane and diethyl ether as eluent), followed by recrystallization from hexane, to give 410 mg (yield 62%) of the title compound as white crystals, melting at 133°-134° C.

reactant | butyllithium | 3.58 mmoles, 1.43 ml | C(CCC)[Li]
reactant | diisopropylamine | 3.57 mmoles, 0.50 ml | C(C)(C)NC(C)C | C6H15N
reactant | (5S)-5-[(1S)-1-(N-t-butoxycarbonylamino)-2-cyclohexylethyl]dihydrofuran-2(3H)-one | 1.61 mmoles, 500 mg | C(C)(C)(C)OC(=O)N[C@@H](CC1CCCCC1)[C@@H]1CCC(O1)=O | C17H29NO4
reactant | cyclohexanone | 3.55 mmoles, 0.24 ml | C1(CCCCC1)=O | C6H10O
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | hexane | 2.5M | CCCCCC | C6H14
product | (3S, 5S)-5-[(1S)-1-(N-t-Butoxycarbonylamino)-2-cyclohexylethyl]-3-(1-hydroxycyclohexyl)dihydrofuran-2(3H)-one | 410 mg, yield 62% | C(C)(C)(C)OC(=O)N[C@@H](CC1CCCCC1)[C@@H]1C[C@H](C(O1)=O)C1(CCCCC1)O | C23H39NO5
